US07026352B1
(8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-7-(morpholin-4-yl)acetoxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
Morpholine (9 mg, 0.103 mmol) was added to a solution of (8E,12E,14E)-7-chloroacetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (8.1 mg, 10.3 μmol) in N,N-dimethylformamide (1 mL) at room temperature, followed by stirring at 60° C. for one hour. Ethyl Acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate, and the organic layer was washed with water. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane=1:2 and 1:1, successively) to obtain the title compound (7.3 mg, 85%) as a colorless oil.

reactant | Morpholine | 0.103 mmol, 9 mg | N1CCOCC1 | C4H9NO
reactant | (8E,12E,14E)-7-chloroacetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 10.3 μmol, 8.1 mg | ClCC(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(C)OCC)(C)OC(C)OCC | C42H71ClO11
reactant | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-7-(morpholin-4-yl)acetoxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 7.3 mg, 85% | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)OC(CN1CCOCC1)=O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C46H79NO12
